US09169254B2
Triethylamine (0.39 ml, 2.80 mmol), dimethylaminopyridine (13 mg, 0.11 mmol) and tert-butyl-dimethyl-chloro-silane (319 mg, 2.11 mmol) were added to a solution of 2-(4-bromo-3-methyl-phenylamino)-ethanol (430 mg, 1.87 mmol) in dichloromethane (3.8 ml) at room temperature, and the mixture was stirred at room temperature for 24 hours. The reaction mixture was diluted with dichloromethane, and the organic layer was washed with water, dried over MgSO4 and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give (4-bromo-3-methyl-phenyl)-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-amine (629 mg, 98%).

reactant | Triethylamine | 2.80 mmol, 0.39 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl-dimethyl-chloro-silane | 2.11 mmol, 319 mg | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | 2-(4-bromo-3-methyl-phenylamino)-ethanol | 1.87 mmol, 430 mg | BrC1=C(C=C(C=C1)NCCO)C | C9H12BrNO
solvent | dichloromethane | 3.8 ml | ClCCl | CH2Cl2
catalyst | dimethylaminopyridine | 0.11 mmol, 13 mg | CN(C)C1=NC=CC=C1 | C7H10N2
product | (4-bromo-3-methyl-phenyl)-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-amine | 629 mg, 98% | BrC1=C(C=C(C=C1)NCCO[Si](C)(C)C(C)(C)C)C | C15H26BrNOSi
